US07423159B2
A mixture of (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-(4-{[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]thio}phenyl)acrylamide (96 mg), m-chloroperbenzoic acid (40 mg) and tetrahydrofuran (3 ml) was stirred at room temperature for 3 hrs. The reaction mixture was concentrated and purified by HPLC to give (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-(4-{[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]sulfinyl}phenyl)acrylamide (36 mg, 37%) as pale-yellow crystals.

reactant | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-(4-{[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]thio}phenyl)acrylamide | 96 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)SCC1=NN=CN1CCC | C25H25FN6OS
reactant | m-chloroperbenzoic acid | 40 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]-N-(4-{[(4-propyl-4H-1,2,4-triazol-3-yl)methyl]sulfinyl}phenyl)acrylamide | 36 mg, 37% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)S(=O)CC1=NN=CN1CCC | C25H25FN6O2S
